US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-(2-chloro-6-fluorobenzalsulfanyl)ethyl]amide
The title compound was prepared as outlined in EXAMPLE 1 from 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18) and 2-(2-chloro-6-fluorobenzylsulfanyl)ethylamine. The product was purified by mass directed purification to give the title compound as a yellow solid. δH (CD3OD): 2.82 (2H, t), 3.64 (2H, t), 3.95 (2H, s), 7.04–7.09 (2H, m), 7.20–7.25 (2H, m), 7.67 (1H, s), 8.58 (1H, s); m/z (ES+)=398 [M+H]+.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 2-(2-chloro-6-fluorobenzylsulfanyl)ethylamine | ClC1=C(CSCCN)C(=CC=C1)F | C9H11ClFNS
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-(2-chloro-6-fluorobenzalsulfanyl)ethyl]amide | ClC1=C(C=SCCNC(=O)C2=CC=3C(=CN=C(C3)Cl)N2)C(=CC=C1)F | C17H14Cl2FN3OS
